data/specific_train_final.csv
"[CH3:14][C:13]1=[CH:12][CH:11]=[C:9]([C:7](=[C:6]1[CH3:5])[CH3:8])[OH:10].[N+:2](=[O:4])([O-:3])[O:1]>>[CH3:14][C:13]1[CH:12]([CH:11]=[C:9]([C:7](=[C:6]1[CH3:5])[CH3:8])[OH:10])[O:1][N+:2](=[O:4])[O-:3] 1-1,12; 13,12-1,12; 13,12-13",Room Temperature,Propagation,addition
"C[CH:10]C1=CC(=CC=C1)C.[O:20][O]>>CC1=CC=CC(=C1)[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(OC(=O)C)O[O:20].[N+](=O)([O:10])[O-]>>CCCC(OC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:13][CH:12]([C:5]([CH3:15])([C:6]([H:7])([CH2:10][OH:11])[O:8][O:9])[O:4][N+:2](=[O:1])[O-:3])[OH:14].[N:16]=[O:17]>>[H:13][CH:12]([C:5]([CH3:15])([C:6]([H:7])([CH2:10][OH:11])[O:8][O:9][N:16]=[O:17])[O:4][N+:2](=[O:1])[O-:3])[OH:14] 16-16,9; 9-16,9",Room Temperature,Termination,recombine
"C[CH:10]OC(C)(C)C.[O:20][O]>>C[CH:10](OC(C)(C)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"c1ccccc1C(CO[N+]([O-])=O)[O:10][O:20]N=O>>c1ccccc1C(CO[N+]([O-])=O)[O:10].[O:20]N=O 10,20-10; 10,20-20",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCCOC(C(C)O)O[O:10]>>[H:20][O:10]OC(C(C)O)OCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[CH2:10])[CH:3]([CH2:4][OH:5])[O:6][N+:7](=[O:9])[O-:8].[OH:13]>>[CH3:1][C:2]([OH:13])([CH2:10])[CH:3]([CH2:4][OH:5])[O:6][N+:7](=[O:9])[O-:8] 13-13,2;2,10-13,2;2,10-10",Room Temperature,Propagation,addition
"CC(=O)[CH:10]CO.[N+](=O)([O-])[O:20]>>CC(=O)[CH:10](CO)[O:20][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[CH:5][CH2:6][O:7])[CH2:3][Cl:4].[N+:9](=[O:8])[O-:10]>>[CH3:1][C:2](=[CH:5][CH2:6][O:7][N+:9](=[O:8])[O-:10])[CH2:3][Cl:4] 9-9,7; 7-7,9",Room Temperature,Termination,recombine
"[H:20][O:21][O:11][O:10].CCOC(CO)[O]>>[H:20][O:10].CCOC(CO)[O].[O:21][O:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]O.CC(COC(=O)C)O[O:10]>>[H:20][O:10]OC(C)COC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:5][CH2:4][CH2:3][CH:2]([CH:6]([CH3:7])[O:8])[OH:1].[N:10](=[O:11])[O:9]>>[CH3:5][CH2:4][CH2:3][CH:2]([CH:6]([CH3:7])[O:8])[OH:1].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"C=C(C([O:2][O:1]N=O)CO)C>>C=C(C([O:2])CO)C.[O:1]N=O 1,2-2;2,1-1",Room Temperature,Initiation,homolyze
"CCC12CC(C(C=C1)(C)[O:20][O:21]N=O)OO2>>CCC12CC(C(C=C1)(C)[O:20])OO2.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]CC(C)C.[O:10][O]>>[H:20][O:10][O].CC(C)C[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(CO)(C(CO)O[N+](=O)[O-])[O:20].[N+:10](=O)[O-]>>CC(CO)(C(CO)O[N+](=O)[O-])[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:20]1=[CH:21]C=CC(C1O)(C)O[O:10]>>CC12C=C[CH:21][C:20](C1O)(C)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(CC=O)[O:20][O:21][O]>>CCC(CC=O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C(C)[O:20])O.[N+:10](=O)[O-]>>CCC(C(C)[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)[O:20][O:21][O])O>>CCC(C(C)[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:11][O:10][O:9][CH2:8][CH:4]([C:3]([CH3:12])[CH:2]=[O:1])[O:5][O:6][H:7].[O:13][O:14]>>[H:11][O:10][O:9][CH2:8][CH:4]([C:3]([CH3:12])([CH:2]=[O:1])[O:13][O:14])[O:5][O:6][H:7] 13-3,13;3-3,13",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCC(C)(CC)O[O:10]>>[H:20][O:10]OC(C)(CC)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][O:4][CH:3]([C:2](=[CH:8][CH2:9][O:10][O:11][H:12])[CH3:1])[O:6][O:7]>>[H:12][O:11][O:10][CH2:9][CH:8]=[C:2]([CH3:1])[CH:3]([O:4])[O:6][O:7][H:5] 4,5-7,5; 4,5-4; 7-7,5",Room Temperature,Propagation,abstraction
"C/[C:20](=[CH:21]\CO)/[CH2:10].[O][O]>>C[C:20](=[CH2:10])[CH:21]CO.[O][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"[H:16][O:17][O:18].[H:15][O:14][O:13][CH2:12][CH:10]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9])[OH:11]>>[H:15][O:14][O:13][CH2:12][CH:10]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:16])[OH:11].[O:17][O:18] 17,16-17; 17,16-9,16; 9-16,9",Room Temperature,Propagation,abstraction
"CC1=CC(=C([C:10](C1O)C)O)C.[O:20][O]>>CC1=CC(=C([C:10](C1O)(C)[O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
